### PR TITLE
Resolve remaining `sorry`s in `AdeleRing.lean`

### PR DESCRIPTION
**Pull request by smmercuri**
Resolves three sorries `finiteAdeleRing_equiv_qHat`, `principalSubgroup_equiv_ratsub`, `finiteIntegralAdeles_equiv_zHatsub` in `AdeleRing.lean` by the following approach:
1. In the pending mathlib PR #30576 there is the sorry-free result that `𝔭.adicCompletion ℚ ≃ₐ[ℚ] ℚ_[𝔭]` and this restricts to the ring of integers. 
2. Lift this isomorphism of 1. to restricted products `FiniteAdeleRing (𝓞 ℚ) ℚ ≃ₐ[ℚ] Πʳ (p : Nat.Primes), [ℚ_[p], subring p]`
3. In the `Padic` case prove directly that `∃ q : ℚ, ∀ p : Nat.Primes, q - x p ∈ subring p` using CRT and the reduction maps `ℤ_[p] →+* ZMod (p ^ n)` which already exist in mathlib, and use the isomorphism in 2. to lift back to the rational finite adele ring.

Additionally:
- Move equivalence results on restricted products from `RestrictedProduct.Basic` to a new file `RestrictedProduct.Equiv`
- Move `RestrictedProduct.structureMapMonoidHom` from `RestrictedProduct.Topology` to `RestrictedProduct.Basic` and expand to `RingHom` versions.
- Remove `RestrictedProduct.congrRight` since this is `RestrictedProduct.map` from mathlib.
- Do some `#min_imports`
- Tidy up `AdeleRing.lean` slightly

### CODE REVIEW

**Comment by kbuzzard** [comment]
Oh sorry, I just bumped mathlib and it's caused a conflict: I changed a `simp [c]` to `simp [-algebraMap.coe_inj, c]` to fix a proof. Having caused you trouble I'll now review mathlib #30576 (edit: actually no, I'll review the PRs it depends on)

File: FLT/Mathlib/Data/Nat/Prime/Defs.lean [hunk 1]
```diff
@@ -0,0 +1,7 @@
+import Mathlib.Data.Nat.Prime.Defs
+
+namespace Nat.Primes
+
+instance {p : Nat.Primes} : Fact p.1.Prime := ⟨p.2⟩
```
Comment (kbuzzard) [inline FLT/Mathlib/Data/Nat/Prime/Defs.lean]: My instinct is that there should be no global `Fact` instances anywhere, they are a slowdown hazard. Can you give this instance a name, make it a def, and then make it a local instance in the files which need it?

File: FLT/NumberField/Padics/RestrictedProduct.lean [hunk 2]
```diff
@@ -0,0 +1,175 @@
...
+
+namespace RestrictedProduct
+
+theorem padic_valuation_neg_of_mem_indexSupport
+    {x : Πʳ (p : Nat.Primes), [ℚ_[p], subring p]} {p : Nat.Primes} (hp : p ∈ x.indexSupport) :
+    (x p).valuation < 0 := by
+  contrapose! hp
+  simpa [Padic.norm_le_one_iff_val_nonneg]
+
+/-- The natural `n : ℕ` for which `x p * n` is a `p`-adic integer for all `p`. -/
```
Comment (kbuzzard) [inline FLT/NumberField/Padics/RestrictedProduct.lean]:
```suggestion
/-- The smallest positive natural `n : ℕ` for which `x p * n` is a `p`-adic integer for all `p`. -/
```

File: FLT/Mathlib/Data/Nat/Prime/Defs.lean (hunk 1 above)
Comment (smmercuri) [reply FLT/Mathlib/Data/Nat/Prime/Defs.lean]: Made this a local instance where needed
